US06831080B2
Preparation of N-[1-(4-Fluoro-3-morpholin-4-yl-phenyl)ethyl]-3-phenyl-acrylamide
A mixture of cinnamic acid (23 mg), 1-(4-fluoro-3-morpholin-4-yl-phenyl)-ethylamine, Preparation 26 (34 mg), DMAP (18 mg), EDC.HCl (27 mg), and Et3N (66 mg) in CH2Cl2 (4 mL) was stirred for 16 hours. Purification by fresh chromatography over silica gel (elution with 50% ethyl acetate in hexane) gave 51 mg of the title compound as a solid.

reactant | cinnamic acid | 23 mg | C(C=CC1=CC=CC=C1)(=O)O | C9H8O2
reactant | 1-(4-fluoro-3-morpholin-4-yl-phenyl)-ethylamine | FC1=C(C=C(C=C1)C(C)N)N1CCOCC1 | C12H17FN2O
reactant | EDC.HCl | 27 mg | CCN=C=NCCCN(C)C.Cl
reactant | Et3N | 66 mg | CCN(CC)CC | C6H15N
catalyst | DMAP | 18 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
product | N-[1-(4-Fluoro-3-morpholin-4-yl-phenyl)ethyl]-3-phenyl-acrylamide | 51 mg | FC1=C(C=C(C=C1)C(C)NC(C=CC1=CC=CC=C1)=O)N1CCOCC1 | C21H23FN2O2
